US09145433B2
A single necked round bottom flask containing a with a magnetic stir bar was charged with 5-bromo-1H-indazole (3.0 g, 15.2 mmol), di-tert-butyl dicarbonate (4.2 g, 19.2 mmol) and acetonitrile (30 mL) under a mild stream of nitrogen at room temperature. Triethylamine (1.8 g, 2.5 mL, 17.7 mmol) was added in one portion to the above stirred homogeneous solution followed by portions-wise addition of 4-(dimethylamino)pyridine (2.2 g, 18 mmol) over a period of 15 min. The homogenous off-brown clear reaction mixture was stirred at room temperature under nitrogen and the progress of reaction monitored by TLC (50% EtOAc/hexanes). Stirring was discontinued after 3 h and the reaction mixture concentrated by rotary evaporator under vacuum. A clear viscous liquid was obtained and dissolved in EtOAc/hexanes (7:3, 200 mL), and diluted with water (75 mL). Organic layer was separated and the aqueous layer extracted with EtOAc/hexanes (1:1, 125 mL). The combined organic layers were washed with water (100 mL) followed by 1N aq. HCl (2×75 mL) to remove 4-(dimethylamino)pyridine. The combined organic layers were washed with water (2×75 mL), saturated aq. NaHCO3 (2×75 mL) and saturated aqueous NaCl. Separated organic layers were dried over anhydrous MgSO4, filtered, concentrated and dried under vacuum to provide tert-butyl 5-bromo-1H-indazole-carboxylate (4.5 g, purity 97%) as a pale yellow viscous liquid which was used without further purification. 1H NMR (DMSO-d6): δ 8.36 (d, 1H, J=0.8 Hz), 8.11 (app d, 1H, J=0.8 Hz), 8.00 (d, 1H, J=8.8 Hz), 7.71 (app dd, 1H, J=0.8 and 8.8 Hz), 1.62 (s, 9H). LCMS: 97%, MS (m/e) 241 (MH+-t-Bu).

reactant | 5-bromo-1H-indazole | 15.2 mmol, 3.0 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | di-tert-butyl dicarbonate | 19.2 mmol, 4.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetonitrile | 30 mL | C(C)#N | C2H3N
reactant | Triethylamine | 17.7 mmol, 2.5 mL, 1.8 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 18 mmol, 2.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 75 mL | O | H2O
product | tert-butyl 5-bromo-1H-indazole-carboxylate | 4.5 g | BrC=1C=C2C(=NNC2=CC1)C(=O)OC(C)(C)C | C12H13BrN2O2
